US04456464
A mixture of 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrophenol (2.5 mmol), chloromethyl methylphosphinic acid (3.8 mmol), potassium carbonate (5.0 mmol) and dimethylformamide (5 ml) is heated to 120° for 2 hours. The reaction mixture is then acidified and extracted with ether. The combined ether extracts are washed with water, dried and evaporated to dryness to yield P-methyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethylphosphinic acid.

reactant | 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrophenol | 2.5 mmol | ClC1=C(OC=2C=CC(=C(C2)O)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C13H7ClF3NO4
reactant | chloromethyl methylphosphinic acid | 3.8 mmol | ClCP(O)(=O)C | C2H6ClO2P
reactant | potassium carbonate | 5.0 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | P-methyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethylphosphinic acid | CP(O)(=O)COC1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C15H12ClF3NO6P
